US06518423B1
N-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)phthalimide
A solution of 3.32 g of (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)methanol, 2.12 g of phthalimide and 3.77 g of triphenylphosphine in tetrahydrofuran (50 ml) was ice-cooled and 2.24 ml of diethyl azodicarboxylate was dropped thereinto. After stirring at room temperature for 1 hour, the solvent was distilled off under reduced pressure and diethyl ether was added to the residue. Then it was subjected to ultrasonication and the crystals thus precipitated were taken up by filtration to thereby give 2.6 g of the title compound as pale yellow crystals.

reactant | (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)methanol | 3.32 g | COCN1C2=C(SC3=C1C=C(C=C3)CO)N=CC=N2 | C13H13N3O2S
reactant | phthalimide | 2.12 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 3.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.24 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)phthalimide | 2.6 g | COCN1C2=C(SC3=C1C=C(C=C3)CN3C(C=1C(C3=O)=CC=CC1)=O)N=CC=N2 | C21H16N4O3S
